Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with hypertension, hyperlipidemia 
and severe aortic stenosis and carotid artery stenosis, who 
presents with chest pain.  
 Per the patient, his chest pain began ___ weeks ago. Pain 
occasionally comes on with exertion, but he has also experienced 
it at rest. Pain typically resolved on its own. On the morning 
prior to admission (___), the pain came on and persisted, so 
he presented to ___. There he was noted to have 
troponin elevated to 0.025->0.046 without EKG changes. TTE (poor 
quality) showed no wall motion abnormalities, preserved EF and 
severe AS. He was given a full dose aspirin and transferred to 
___ for further care.  
 In the ___ initial vitals were: 97.5 84 ___ RA. Labs 
were notable for normal CBC, chem-10, and troponin-T of 0.02. 
EKG was notable for NSR, QTc 448, TWI III, Q wave in III, no 
ischemic ST changes.  
 On the floor, the patient is not currently experiencing chest 
pain.  
 REVIEW OF SYSTEMS:  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
 
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia  
2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
 - Severe aortic stenosis  
 - Bilateral carotid artery bulb stenosis with 50% to 69% 
stenosis of the right internal carotid artery  

 
Social History:
___
Family History:
Per chart review: Father had CABG in his ___, passed away. 
Mother had CHF in ___  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T97.8 BP163/99 HR87 RR14 O2 SAT 94% RA  
 GENERAL: Well appearing, Oriented x3. NAD  
 HEENT: Sclera anicteric. Conjunctiva were pink, no pallor or 
cyanosis of the oral mucosa. No xanthelasma.  
 NECK: Supple with no JVD.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ holosystolic murmur at ___  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  

DISCHARGE PHYSICAL EXAM
VS: Tm 98.6 BP99-152/63-82 HR86-101 RR18 O2SAT 94-97% RA
GENERAL: Well appearing, Oriented x3. NAD 
HEENT: Sclera anicteric. MMM
NECK: Supple with no JVD.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ holosystolic murmur at ___ 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e.  

 
Pertinent Results:
ADMISSION LABS
---------------

___ 03:15AM BLOOD WBC-9.8 RBC-4.90 Hgb-14.4 Hct-42.9 MCV-88 
MCH-29.4 MCHC-33.6 RDW-12.6 RDWSD-40.1 Plt ___
___ 03:15AM BLOOD Neuts-71.9* Lymphs-16.0* Monos-7.8 
Eos-3.5 Baso-0.5 Im ___ AbsNeut-7.07* AbsLymp-1.57 
AbsMono-0.77 AbsEos-0.34 AbsBaso-0.05
___ 03:15AM BLOOD ___ PTT-32.4 ___
___ 03:15AM BLOOD Glucose-123* UreaN-19 Creat-0.9 Na-139 
K-3.8 Cl-100 HCO3-24 AnGap-19
___ 09:40AM BLOOD Calcium-9.8 Phos-3.0 Mg-2.0
___ 03:15AM BLOOD cTropnT-0.02*

PRE-OPERATIVE WORKUP - IMAGING AND STUDIES
CXR ___: Lungs are clear without focal consolidation, 
effusion or pneumothorax.  Mediastinal and hilar contours are 
normal.  Heart size is normal. 
IMPRESSION: No acute intrathoracic process. 

MANDIBLE (PANOREX) ___: No fracture or dislocation.  No 
bone destruction.  For specific details regarding dentition, 
please consult dental service. 

CARDIAC CATHETERIZATOIN ___: Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA has mild plaque
* Left Anterior Descending
The LAD is has calcium noted in its proximal segment with mild 
luminal narrowing.
there is mderate 40% stenosis of the mid LAD at the point of 
bifurcation with a major diagonal branch
(D2)
The ___ Diagonal is small caliber but D2 is a major branch with 
50 % proximal stenosis
* Circumflex
The Circumflex is moderate sized with ___ mid stenosis
The ___ Marginal is very small caliber (there is ramus 
intermedius)
* Ramus
The Ramus is Medium caliber, mild luminal irregularities
* Right Coronary Artery
The RCA is. dominant, moderate to large caliber,
there is mild disease in the proximal segment, with a discrete 
ridge-like calcific 80% mid RCA stenosis.
There is also moderate diffuse disease in the distal segment of 
the RCA
The Right PDA is. Overall non obstructive
Impressions:
1. Mid to moderate three vessel CAD in this right dominant 
coronary system, most significant stenosis in
the RCA
2. Echocardiographic evidence of Severe aortic stenosis
Recommendations
1. CT Surg consult for SAVR + CABG
2. Further recommendations as per inpatient Cardiology service

DISCHARGE/INTERVAL LABS
___ 07:00AM BLOOD WBC-10.8* RBC-5.51 Hgb-16.2 Hct-48.0 
MCV-87 MCH-29.4 MCHC-33.8 RDW-12.5 RDWSD-39.9 Plt ___
___ 09:40AM BLOOD ___ PTT-41.5* ___
___ 07:00AM BLOOD Glucose-117* UreaN-18 Creat-1.1 Na-136 
K-3.6 Cl-95* HCO3-24 AnGap-21*
___ 07:20AM BLOOD ALT-31 AST-25 LD(LDH)-190 AlkPhos-89 
TotBili-0.7
___ 09:40AM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:20AM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD Calcium-9.9 Phos-4.4 Mg-2.1
___ 07:20AM BLOOD %HbA1c-5.8 eAG-___ year old M with PMHx of hypertension, hyperlipidemia, severe 
aortic stenosis, and carotid artery stenosis, who presented with 
chest pain and elevated troponin (to 0.04). 

#NSTEMI: Elevated troponin up to 0.046 at ___, with no 
ischemic EKG changes or evolution. Troponin have ___ down to < 
0.01 and he is no longer having chest pain. Cardiac cath showing 
80% mid RCA stenosis and patient is in the process of going for 
CABG with AVR per cardiac surgery. Patient has been advised 
risks and benefits of procedure and remains anxious about 
surgery. He would like to be discharged to pursue a second 
opinion. Since presentation he has been optimized on medical 
therapy with Atorvastatin and Metoprolol, in addition to home 
Aspirin. 

#Severe Aortic Stenosis: On OSH TTE, there is evidence of 
worsening, severe aortic stenosis (valve area <1.0 cm2), however 
with suboptimal image quality. ECHO was repeated before 
discharge with final read pending at discharge. 

#Hypertension: Continue home HCTZ

#Hyperlipidemia: Simvastatin was switched to Atorvastatin. 

TRANSITIONAL ISSUES
--------------------
[] during the week of ___, the patient underwent cardiac 
catheterization and completed a pre-op CXR, EKG, LFTs, albumin, 
A1C, MRSA swab, and Panorex. These results will be available in 
the patient's discharge summary. 
[] Carotid ultrasound in ___ showing 50-69% occlusion of 
___ and ___ occlusion of LICA.
[] Simvastatin was switched to Atorvastatin 
[] MEDICATIONS ADDED: Metoprolol, may titrate up as heart rates 
and blood pressures tolerate 
[] Patient's father passed away post-op following CABG in ___ 
with some concern for anesthesia complication. However, patient 
himself reports undergoing general anesthesia for knee surgeries 
in the past without complications.
[] Patient will be scheduled for f/u with PCP and his ___ 
cardiologist, ___. 
# CODE: Full code
# CONTACT: sister ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 80 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually as needed for 
chest pain Disp #*10 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: NSTEMI, severe aortic stenosis

Secondary diagnoses: Hypertension, hyperlipidemia, carotid 
stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with chest pain. Your labs showed 
your heart was not getting enough blood flow. You had a 
catherization which showed blockages in your heart's vessels 
which were a cause. They were not able to be fixed with stents. 
You were referred to cardiac surgery for evaluation for bypass 
surgery. You decided to leave against medical advice knowing 
that you are at risk for heart attack, stroke, and death.

MEDICATIONS STOPPED: Simvastatin

MEDICATIONS ADDED: Metoprolol, Atorvastatin

Please make sure you follow up with your cardiologist and PCP as 
listed below. Per your discussion with Dr. ___ do not 
exercise, return to work, or go out for prolonged periods in 
cold weather until you have surgery. Please call Dr. ___ 
you have a surgery date so that she can discuss potentially 
starting another antiplatelet agent that we would have 
recommended. We strongly encourage you to follow up to get 
surgery as soon as possible. Please return if you develop any 
worsening chest pain or difficulty breathing.

It was a pleasure taking care of you! We wish you the best!

Your ___ Team
 
Followup Instructions:
___